US08084448B2
A. 2,6-Bis-benzyloxybenzoic Acid Benzyl Ester
To a solution of 2,6-dihydroxybenzoic acid (1.54 g, 10 mmol) and benzyl bromide (3.63 mL, 30.5 mmol) in DMF (20 mL) is added K2CO3 (4.83 g, 30.5 mmol) and the mixture is stirred at RT for 48 h. Water is added and the mixture is extracted with EtOAc. The organic phase is washed with water and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/EtOAc (8:1) as eluent to give the title compound.

reactant | 2,6-dihydroxybenzoic acid | 10 mmol, 1.54 g | OC1=C(C(=O)O)C(=CC=C1)O | C7H6O4
reactant | benzyl bromide | 30.5 mmol, 3.63 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 30.5 mmol, 4.83 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2,6-Bis-benzyloxybenzoic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(C1=C(C=CC=C1OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C28H24O4
